US04467093
2-Nitrobenzaldehyde-diacetate (0.1 mole, 25.4 g), methyl acetoacetate (0.21 mole, 26 g), NH4OH (12 ml) and methanol (45 ml) were heated under reflux for 5 hours. After cooling to 15° C. the precipitated product was filtered off. The crystallization of the crude product from acetic acid yielded 4-(2'-nitrophenyl)-2,6 dimethyl-3,5-dicarbmethoxy-1,4-dihydropyridine (19.0 g, 55% of the theory), m.p. 173°-174° C.

reactant | 2-Nitrobenzaldehyde diacetate | 0.1 mole, 25.4 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1.CC(=O)CC(=O)O
reactant | methyl acetoacetate | 0.21 mole, 26 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NH4OH | 12 ml | [NH4+].[OH-]
reactant | methanol | 45 ml | CO | CH4O
product | 4-(2'-nitrophenyl)-2,6 dimethyl-3,5-dicarbmethoxy-1,4-dihydropyridine | [N+](=O)([O-])C1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C17H18N2O6
